US04803272
A solution of 2,2-dimethyl-4-[3-oxa-4-phenyl butyl]-5-[3,3-diphenyl-3-t-butyl-2-oxa-3-silapropyl]-1,3-dioxacyclopentane [490 mg, 0.97 mmol] prepared in Part F in THF [5 mL] was treated with tetra-n-butylammonium fluoride [1M in THF, 3 mL] at ambient temperature for two hours. The solvent was removed and the resulting residue was diluted with ether, washed with saturated sodium chloride and dried [MgSO4 ]. The crude product was purified by flash column chromatography to give 204 mg of 2,2-dimethyl-4-[3-oxa-4-phenyl butyl]-5-hydroxymethyl-1,3-dioxacyclopentane. NMR [CDCl3 ]: δ7.33 [s, 5H], 4.52 [s, 2H], 4.30-4.00 [m, 2H], 3.60 [t, 4H], 2.18 [t, 1H, --OH], 1.86 [dt, 2H], 1.43 [s, 3H], 1.33 [s, 3H].

reactant | 2,2-dimethyl-4-[3-oxa-4-phenyl butyl]-5-[3,3-diphenyl-3-t-butyl-2-oxa-3-silapropyl]-1,3-dioxacyclopentane | 0.97 mmol, 490 mg | CC1(OC(C(O1)CCCCC=1COC=CC1)CO[Si](C(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)C | C31H42O4Si
reactant | tetra-n-butylammonium fluoride | 1M, 3 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2,2-dimethyl-4-[3-oxa-4-phenyl butyl]-5-hydroxymethyl-1,3-dioxacyclopentane | 204 mg | CC1(OC(C(O1)CCCCC=1COC=CC1)CO)C | C15H24O4
